US04946843
A mixture of 3.62 parts of 2-chloro-N-[3-[(2-ethoxyethyl)amino]2-pyridinyl]acetamide, 10.6 parts of 1-(phenylmethyl)piperazine, 6.4 parts of sodium carbonate and 90 parts of methylbenzene was stirred for 20 hours at 80° C. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding 7.9 parts (100%) of N-[3-[(2-ethoxyethyl)amino]-2-pyridinyl]-4-(phenylmethyl)-1-piperazineacetamide as a residue (int. 25).

reactant | 2-chloro-N-[3-[(2-ethoxyethyl)amino]2-pyridinyl]acetamide | ClCC(=O)NC1=NC=CC=C1NCCOCC | C11H16ClN3O2
reactant | 1-(phenylmethyl)piperazine | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | N-[3-[(2-ethoxyethyl)amino]-2-pyridinyl]-4-(phenylmethyl)-1-piperazineacetamide | 100% | C(C)OCCNC=1C(=NC=CC1)NC(CN1CCN(CC1)CC1=CC=CC=C1)=O | C22H31N5O2
